US07566735B2
N,N-dimethyl-2-{4-[3-(trifluoromethyl)-4,5,6,7-tetrahydro-1H-indazol-1-yl]phenyl}acetamide
The title compound was prepared from 2-(4-bromophenyl)-N,N-dimethylacetamide and 3-(trifluoromethyl)-4,5,6,7-tetrahydro-1H-indazole using a similar procedure to that described for Example 7.

reactant | 2-(4-bromophenyl)-N,N-dimethylacetamide | BrC1=CC=C(C=C1)CC(=O)N(C)C | C10H12BrNO
reactant | 3-(trifluoromethyl)-4,5,6,7-tetrahydro-1H-indazole | FC(C1=NNC=2CCCCC12)(F)F | C8H9F3N2
product | N,N-dimethyl-2-{4-[3-(trifluoromethyl)-4,5,6,7-tetrahydro-1H-indazol-1-yl]phenyl}acetamide | CN(C(CC1=CC=C(C=C1)N1N=C(C=2CCCCC12)C(F)(F)F)=O)C | C18H20F3N3O
